US04795755
A solution of 5-(3-[2-(2,2,2-trifluoroethyl)guanidino]-1,2,4-triazol-1-yl)valeramidine hydrochloride (1 g.) in MeOH (14 ml.) was treated with the sodium salt of ethyl 2-formylpropionate (1.95 g.) and the suspension heated under reflux for 3.5 hours. This suspension was evaporated and the residue partitioned between water and ether. The aqueous layer was acidified with glacial HOAc to pH 3 and further extracted with ether. Neutralisation with aqueous ammonia (s.g. 0.880) and extraction with EtOAc gave a white solid which was crystallised twice from acetonitrile to give 4-hydroxy-5-methyl-2-[4-(3-[2-(2,2,2-trifluoroethyl)guanidino]-1,2,4-triazol-1-yl)butyl]pyrimidine (0.127 g.; 12%), m.p. 235°-237°.

reactant | 5-(3-[2-(2,2,2-trifluoroethyl)guanidino]-1,2,4-triazol-1-yl)valeramidine hydrochloride | 1 g | Cl.FC(CN=C(NC1=NN(C=N1)CCCCC(=N)N)N)(F)F
reactant | sodium | [Na] | Na
reactant | ethyl 2-formylpropionate | 1.95 g | C(=O)C(C(=O)OCC)C | C6H10O3
solvent | MeOH | 14 ml | CO | CH4O
product | 4-hydroxy-5-methyl-2-[4-(3-[2-(2,2,2-trifluoroethyl)guanidino]-1,2,4-triazol-1-yl)butyl]pyrimidine | 0.127 g, 12% | OC1=NC(=NC=C1C)CCCCN1N=C(N=C1)NC(=NCC(F)(F)F)N | C14H19F3N8O
